US06057352
Step A: Preparation of β-oxo-3-(trifluoromethyl)benzenepropanenitrile
To a suspension of 7.6 g of sodium hydride (60% dispersion in oil) in 200 mL of tetrahydrofuran under a nitrogen atmosphere was added dropwise at room temperature a solution consisting of 7.8 g of acetonitrile and 38.8 g of methyl 3-(trifluoromethyl)benzoate in 50 mL of tetrahydrofuran. Following addition, the suspension was stirred 1 h at ambient temperature, refluxed about 5 h, and then cooled to room temperature. Isopropyl alcohol (20 mL) was added dropwise at room temperature. After stirring about 15 min, the solvent was removed in vacuo, and about 200 mL of water was added to the residue. The aqueous suspension was washed with 3×50 mL diethyl ether and then acidified with concentrated hydrochloric acid to form a solid. The solid was isolated by filtration, washed 2×100 mL with water and then dissolved in methylene chloride. The organic solution was dried (MgSO4), filtered and concentrated to give 30.0 g of the title compound of Step A as a white solid melting at 51-55° C. 1H NMR (CDCl3): δ 8.1-8.2 (m,2H), 7.95 (d,1H), 7.7 (m,1H), 4.15 (s,2H); IR (mineral oil) 1704.1 cm-1.

reactant | sodium hydride | 7.6 g | [H-].[Na+]
reactant | acetonitrile | 7.8 g | C(C)#N | C2H3N
reactant | methyl 3-(trifluoromethyl)benzoate | 38.8 g | FC(C=1C=C(C(=O)OC)C=CC1)(F)F | C9H7F3O2
reactant | Isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | β-oxo-3-(trifluoromethyl)benzenepropanenitrile | 30.0 g | O=C(CC#N)C1=CC(=CC=C1)C(F)(F)F | C10H6F3NO
